// Generated for: spectre (Apr 19 14:38:21 2013 )
// Library name: gsclib045_lvt
// Cell name: TLATNCAX8
// View name: schematic

simulator lang=spectre

subckt TLATNCAX8 CK E ECK VSS VDD
mp6 (n0 CKbb net217 VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp5 (net217 E VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp22 (ECK ECKb VDD VDD) g45p1lvt w=(3.115u) l=45n nf=1 as=436.1f \
        ad=436.1f ps=6.51u pd=6.51u nrd=44.9438m nrs=44.9438m sa=140n \
        sb=140n sd=160n sca=51.31501 scb=0.05377 scc=0.00636 m=(1)
mp16 (n0 CKb net205 VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp15 (net205 Eint VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f \
        ad=30.1f ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n \
        sd=160n sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp0 (CKb CK VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp1 (CKbb CKb VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp20 (ECKb Eint VDD VDD) g45p1lvt w=(780n) l=45n nf=1 as=109.2f \
        ad=109.2f ps=1.84u pd=1.84u nrd=179.487m nrs=179.487m sa=140n \
        sb=140n sd=160n sca=80.49887 scb=0.07059 scc=0.00954 m=(1)
mp21 (ECKb CKbb VDD VDD) g45p1lvt w=(780n) l=45n nf=1 as=109.2f \
        ad=109.2f ps=1.84u pd=1.84u nrd=179.487m nrs=179.487m sa=140n \
        sb=140n sd=160n sca=80.49887 scb=0.07059 scc=0.00954 m=(1)
mp10 (Eint n0 VDD VDD) g45p1lvt w=(310n) l=45n nf=1 as=43.4f ad=43.4f \
        ps=900n pd=900n nrd=451.613m nrs=451.613m sa=140n sb=140n sd=160n \
        sca=130.90642 scb=0.09728 scc=0.01590 m=(1)
mn5 (net254 E VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn6 (n0 CKb net254 VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn22 (ECK ECKb VSS VSS) g45n1lvt w=(2.065u) l=45n nf=1 as=289.1f \
        ad=289.1f ps=4.41u pd=4.41u nrd=67.7966m nrs=67.7966m sa=140n \
        sb=140n sd=160n sca=56.50260 scb=0.05663 scc=0.00690 m=(1)
mn21 (ECKb CKbb net238 VSS) g45n1lvt w=(520n) l=45n nf=1 as=72.8f \
        ad=72.8f ps=1.32u pd=1.32u nrd=269.231m nrs=269.231m sa=140n \
        sb=140n sd=160n sca=98.28759 scb=0.08111 scc=0.01166 m=(1)
mn20 (net238 Eint VSS VSS) g45n1lvt w=(520n) l=45n nf=1 as=72.8f \
        ad=72.8f ps=1.32u pd=1.32u nrd=269.231m nrs=269.231m sa=140n \
        sb=140n sd=160n sca=98.28759 scb=0.08111 scc=0.01166 m=(1)
mn16 (n0 CKbb net230 VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn15 (net230 Eint VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f \
        ad=20.3f ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n \
        sd=160n sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn0 (CKb CK VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn10 (Eint n0 VSS VSS) g45n1lvt w=(205n) l=45n nf=1 as=28.7f ad=28.7f \
        ps=690n pd=690n nrd=682.927m nrs=682.927m sa=140n sb=140n sd=160n \
        sca=166.60249 scb=0.10864 scc=0.02069 m=(1)
mn1 (CKbb CKb VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
ends TLATNCAX8
// End of subcircuit definition.

